US05994368
To a mixture of 8-[2,6-dichloro-3-[N-methyl-N-[(E)-3-(6-methylaminopyridin-3-yl)acryloylglycyl]amino]benzyloxy]-2-methylquinoline (100 mg) and triethylamine (23.3 mg) in dichloromethane was added acetyl chloride (15.3 mg) under nitrogen in ice water bath, and the mixture was stirred for 3 hours at room temperature. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with water, saturated sodium bicarbonate solution and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by preparative thin-layer chromatography (dichloromethane:methanol=20:1, V/V) to give 8-[2,6-dichloro-3-[N-methyl-N[(E)-3-[6-(N-methylacetamido)pyridin-3-yl]acryloylglycyl]amino]-benzyloxy]-2-methylquinoline (50 mg) as an amorphous powder.

reactant | 8-[2,6-dichloro-3-[N-methyl-N-[(E)-3-(6-methylaminopyridin-3-yl)acryloylglycyl]amino]benzyloxy]-2-methylquinoline | 100 mg | ClC1=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1N(C(CNC(\C=C\C=1C=NC(=CC1)NC)=O)=O)C)Cl | C29H27Cl2N5O3
reactant | triethylamine | 23.3 mg | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 15.3 mg | C(C)(=O)Cl | C2H3ClO
reactant | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 8-[2,6-dichloro-3-[N-methyl-N[(E)-3-[6-(N-methylacetamido)pyridin-3-yl]acryloylglycyl]amino]-benzyloxy]-2-methylquinoline | 50 mg | ClC1=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1N(C(CNC(\C=C\C=1C=NC(=CC1)N(C(C)=O)C)=O)=O)C)Cl | C31H29Cl2N5O4
